US06133258
The reaction procedure of Example 57 was followed except that 1.613 mg (10.24 mmol) of 2-chloronicotinic acid, 15 ml of thionyl chloride, two droplets of DMF, 780 mg of ammonium thiocyanate, 15 ml of acetone, 1.21 g of N-methyl-o-toluidine and 10 ml of acetone were used. The resulting crude product was then recrystallized from ethanol to obtain 2.28 g of 2-(N-methyl-N-(2-methylphenyl)amino)-4H-pyrido[3,2-e]-1,3-thiazin-4-one.

reactant | 2-chloronicotinic acid | 10.24 mmol, 1.613 mg | ClC1=C(C(=O)O)C=CC=N1 | C6H4ClNO2
reactant | thionyl chloride | 15 ml | S(=O)(Cl)Cl | Cl2OS
reactant | ammonium thiocyanate | 780 mg | [S-]C#N.[NH4+]
reactant | N-methyl-o-toluidine | 1.21 g | CNC=1C(=CC=CC1)C | C8H11N
solvent | acetone | 10 ml | CC(=O)C | C3H6O
solvent | acetone | 15 ml | CC(=O)C | C3H6O
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-(N-methyl-N-(2-methylphenyl)amino)-4H-pyrido[3,2-e]-1,3-thiazin-4-one | 2.28 g | CN(C1=C(C=CC=C1)C)C=1SC2=C(C(N1)=O)C=CC=N2 | C15H13N3OS
